US04147864
One drop of dimethylformamide in dioxane is added to a soltuion of 54 mg (0.1 mM) of 2-[4-(o-methoxybenzensulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-methoxy-isocrotonic acid in 0.5 ml of a 10% strength solution of oxalyl chloride in dioxane, whereupon an evolution of gas occurs immediately. The mixture is stirred for 2 hours at room temperature and the solvent and the excess oxalyl chloride are evaporated off in vacuo. The residue is dried in a high vacuum and gives 2-[4-(o-methoxybenzenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1yl]-3-methoxy-isocrotonic acid chloride in the form of a slightly orange-coloured foam, IR spectrum (CH2Cl2): 5.60, 5.90 and 8.70 μ.

reactant | 2-[4-(o-methoxybenzensulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-methoxy-isocrotonic acid | 0.1 mM, 54 mg | COC1=C(C=CC=C1)S(=O)(=O)SC1C(C(N1/C(/C(=O)O)=C(/C)\OC)=O)NC(COC1=CC=CC=C1)=O | C23H24N2O9S2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | dimethylformamide | One drop | CN(C=O)C | C3H7NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[4-(o-methoxybenzenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1yl]-3-methoxy-isocrotonic acid chloride | COC1=C(C=CC=C1)S(=O)(=O)SC1C(C(N1/C(/C(=O)Cl)=C(/C)\OC)=O)NC(COC1=CC=CC=C1)=O | C23H23ClN2O8S2
